US03931231
c) 4,5,6,7-Tetrachloro-2-thio-phthalide ##SPC7##
48 g (0.2 mole) of sodium sulfide containing water of crystallization (Na2S. 9H2O) were dissolved in 300 ml of methanol. 6.8 g (0.2 mole) of hydrogen sulfide were passed into this solution at 10° to 20°C and 32.7 g (0.1 mole) of 2-chloromethyl-3,4,5,6-tetrachlorobenzoyl chloride were then introduced at 20° to 30°C. The mixture was boiled for 6 hours under reflux and after cooling to 10°C was acidified to pH 5 with concentrated hydrochloric acid. The crystal paste which separated out was filtered off, and the residue was washed with water and acetone and dried. The yield was 27.5 g (representing 95.5% of theory) of almost colorless crystalline powder of melting point 181°-183°C.

reactant | sodium sulfide | 0.2 mole, 48 g | [S-2].[Na+].[Na+]
reactant | hydrogen sulfide | 0.2 mole, 6.8 g | S | H2S
reactant | 2-chloromethyl-3,4,5,6-tetrachlorobenzoyl chloride | 0.1 mole, 32.7 g | ClCC1=C(C(=O)Cl)C(=C(C(=C1Cl)Cl)Cl)Cl | C8H2Cl6O
reactant | hydrochloric acid | Cl | ClH
product | 4,5,6,7-Tetrachloro-2-thio-phthalide | ClC1=C2CSC(=O)C2=C(C(=C1Cl)Cl)Cl | C8H2Cl4OS
